US08729112B2
4-(Chloromethyl)-4-methyloxazolidin-2-one
To a suspension of 4-(hydroxymethyl)-4-methyloxazolidin-2-one (1.89 g, 14.4 mmol) in 1,2-dichloroethane (10 ml) was added thionyl chloride (5.0 ml, 69 mmol). The solution was stirred for 30 min at RT, and then pyridine (5.0 ml, 62 mmol) was added. The solution was heated to 90° C. for 16 h and then 110° C. for an additional 2 h, then cooled to RT and evaporated. The residue was purified by flash chromatography (30% to 100% ethyl acetate in hexanes, Rf=0.25 in 1:1 ethyl acetate:hexanes) to give the title compound as a clear oil which solidified to a white solid upon standing (1.52 g, 10.2 mmol, 71%). 1H NMR (CDCl3, 400 MHz) δ 1.49 (s, 3H), 3.55 (m, 2H), 4.12 (d, 1H, J=9.2 Hz), 4.31 (d, 1H, J=8.8 Hz), 5.4 (br s, 1H). LRMS (ESI/APCI): 150 [M+H]+.

reactant | 4-(hydroxymethyl)-4-methyloxazolidin-2-one | 14.4 mmol, 1.89 g | OCC1(NC(OC1)=O)C | C5H9NO3
reactant | thionyl chloride | 69 mmol, 5.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 62 mmol, 5.0 ml | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 4-(Chloromethyl)-4-methyloxazolidin-2-one | ClCC1(NC(OC1)=O)C | C5H8ClNO2
